US06265575B1
Part B. (±)-6-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[[(±)-trans-2-(1-Piperidyl)cyclopentyl]oxy]phenyl Ketone
The title compound was prepared in 70% yield by essentially following the procedures outlined in Example 72, Part E, from 4-fluorophenyl 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone (Example 59, Part A) and (±)-trans-2-(1-piperidyl)cyclopentanol (Part A).

reactant | 4-fluorophenyl 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)F)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C28H26FNO3S
reactant | (±)-trans-2-(1-piperidyl)cyclopentanol | N1(CCCCC1)[C@H]1[C@@H](CCC1)O | C10H19NO
product | (±)-6-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[[(±)-trans-2-(1-Piperidyl)cyclopentyl]oxy]phenyl Ketone | 70% yield | N1(CCCCC1)[C@H]1[C@@H](CCC1)OC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OC | C38H44N2O4S
